US07402603B2
20.4 g of crude (2′-chloro-6′-fluorophenyl)-(4-methylphenyl)-amine are heated to about 80° C. and treated with 10.75 g of chloroacetylchlonde. The mixture is stirred for 2 hours and diluted with 10 ml of 2-propanol. The solution is cooled to 35-40° C. and seeded. The precipitated suspension is diluted with 30 ml of hexane, cooled to 0-5° C. and stirred for about 1 hour. The crystals are isolated by filtration, washed with a cold solution of 2-propanol/hexane ⅓. After drying, 22.7 g of 2-chloro-N-(2′-chloro-6′-fluorophenyl)-N-(4-methylphenyl)acetamide are obtained. HPLC purity: 99%. Melting point: 79-80° C. 1H-NMR(DMF-d7, 400 MHz, 393K) δ 2.44(s, 3H, CH3); 4.32 (s, 2H, CH2), 7.35[d, J=8.0 Hz, 2H, HC(3) and HC(5)], 7.43[ddd, J=8.0, 2.0 Hz, JH-F=8.0, 1H, HC(5′)], 7.48[d, J=8.0 Hz, 2H, HC(2) and HC(6)], 7.55[d, J=8.0 Hz, 1H, HC(3′)], 7.60[ddd, J=8.0 Hz, JH-F=5.5, 1H, HC(4′)].

reactant | (2′-chloro-6′-fluorophenyl)-(4-methylphenyl)-amine | 20.4 g | ClC1=C(C(=CC=C1)F)NC1=CC=C(C=C1)C | C13H11ClFN
reactant | chloroacetylchlonde | 10.75 g | ClCC(=O)Cl | C2H2Cl2O
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
solvent | hexane | 30 ml | CCCCCC | C6H14
product | 2-chloro-N-(2′-chloro-6′-fluorophenyl)-N-(4-methylphenyl)acetamide | 22.7 g | ClCC(=O)N(C1=CC=C(C=C1)C)C1=C(C=CC=C1F)Cl | C15H12Cl2FNO
